************************************************************************
* auCdl Netlist:
* 
* Library Name:  Hummingbird
* Top Cell Name: XOR2_X1
* View Name:     schematic
* Netlisted on:  Mar 12 10:49:22 2018
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD!
+        VSS!

*.PIN VDD!
*+    VSS!

************************************************************************
* Library Name: Hummingbird
* Cell Name:    XOR2_X1
* View Name:    schematic
************************************************************************

.SUBCKT XOR2_X1 A B VDD! VSS! Z
*.PININFO A:I B:I VDD!:I VSS!:I Z:O
MM_i_19 net_001 A Z VSS! NMOS_VTL W=210.0n L=50n m=1
MM_i_24 VSS! B net_001 VSS! NMOS_VTL W=210.0n L=50n m=1
MM_i_0 net_000 A VSS! VSS! NMOS_VTL W=210.0n L=50n m=1
MM_i_13 Z net_000 VSS! VSS! NMOS_VTL W=210.0n L=50n m=1
MM_i_7 VSS! B net_000 VSS! NMOS_VTL W=210.0n L=50n m=1
MM_i_30 net_002 A net_000 VDD! PMOS_VTL W=630.0n L=50n m=1
MM_i_35 VDD! B net_002 VDD! PMOS_VTL W=630.0n L=50n m=1
MM_i_41 net_003 net_000 VDD! VDD! PMOS_VTL W=630.0n L=50n m=1
MM_i_47 Z A net_003 VDD! PMOS_VTL W=630.0n L=50n m=1
MM_i_53 net_003 B Z VDD! PMOS_VTL W=630.0n L=50n m=1
.ENDS

