************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_lib
* Top Cell Name: nand_gate
* View Name:     schematic
* Netlisted on:  Dec 13 21:28:20 2017
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: ECEC471_lib
* Cell Name:    nand_gate
* View Name:    schematic
************************************************************************

.SUBCKT nand_gate a b out
*.PININFO a:I b:I out:O
MM1 out a net14 gnd! NMOS_VTH W=200n L=50n m=1
MM0 net14 b gnd! gnd! NMOS_VTH W=200n L=50n m=1
MM3 out b vdd! vdd! PMOS_VTH W=200n L=50n m=1
MM2 out a vdd! vdd! PMOS_VTH W=200n L=50n m=1
.ENDS

