************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_lib
* Top Cell Name: nor_gate
* View Name:     schematic
* Netlisted on:  Dec 13 22:28:30 2017
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: ECEC471_lib
* Cell Name:    nor_gate
* View Name:    schematic
************************************************************************

.SUBCKT nor_gate a b out
*.PININFO a:I b:I out:O
MM1 out b gnd! gnd! NMOS_VTH W=200n L=50n m=1
MM0 out a gnd! gnd! NMOS_VTH W=200n L=50n m=1
MM3 out b net07 vdd! PMOS_VTH W=400n L=50n m=1
MM2 net07 a vdd! vdd! PMOS_VTH W=400n L=50n m=1
.ENDS

