************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_lib
* Top Cell Name: std_inv_15
* View Name:     schematic
* Netlisted on:  Dec 15 00:58:37 2017
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: ECEC471_lib
* Cell Name:    std_inv_15
* View Name:    schematic
************************************************************************

.SUBCKT std_inv_15 in out
*.PININFO in:I out:O
MM0 out in gnd! gnd! NMOS_VTH W=140.0n L=50n m=1
MM1 out in vdd! vdd! PMOS_VTH W=195.00n L=50n m=1
.ENDS

